US08202858B2
1-(3,3-Dimethyl-butyl)-piperidine-4-carboxylic Acid 4-[(4-chloro-phenyl)-methyl-carbamoyl]-2-methyl-benzylamide
HBTU (296 mg, 0.78 mmol) was added to a solution of 1-(3,3-dimethyl-butyl)-piperidine-4-carboxylic acid from Example E15 (182 mg, 0.73 mmol) in DMF (5 ml) and DIEA (0.272 ml, 1.56 mmol). The mixture was stirred at room temperature for 2 h then 4-aminomethyl-N-(4-chloro-phenyl)-3,N-dimethyl-benzamide from Example E115.2 (150 mg, 0.52 mmol) was added. The mixture was stirred for 2 h at room temperature then diluted with EtOAc, washed with saturated NaHCO3 then brine, dried and concentrated in vacuo. The residue was purified by preparative HPLC (eluant; 0.5% 35% ammonia:9.5% methanol:90% dichloromethane) to give a white powder identified as the title compound (209 mg, 83%).

reactant | HBTU | 0.78 mmol, 296 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-(3,3-dimethyl-butyl)-piperidine-4-carboxylic acid | CC(CCN1CCC(CC1)C(=O)O)(C)C | C12H23NO2
reactant | DIEA | 1.56 mmol, 0.272 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-aminomethyl-N-(4-chloro-phenyl)-3,N-dimethyl-benzamide | NCC1=C(C=C(C(=O)N(C)C2=CC=C(C=C2)Cl)C=C1)C | C16H17ClN2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-(3,3-Dimethyl-butyl)-piperidine-4-carboxylic Acid 4-[(4-chloro-phenyl)-methyl-carbamoyl]-2-methyl-benzylamide | 209 mg, 83% | ClC1=CC=C(C=C1)N(C(=O)C1=CC(=C(CNC(=O)C2CCN(CC2)CCC(C)(C)C)C=C1)C)C | C28H38ClN3O2
